US06255496B1
4-[N-Dodecyl-N-[2-[4-(3-oxo-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester
A suspension of 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (Dess-Martin periodinane, 1.7 g, 4.0 mmol) in dichloromethane (20 ml) was treated with 4-[N-dodecyl-N-2-[4-[4,4,4-trifluoro-3-hydroxybutyl]phenoxy]ethylamino]butanoic acid, ethyl ester (430 mg, 0.79 mmol) dissolved in dichloromethane (5 ml). The mixture was stirred at 22° C. for 4 h, poured into a saturated aqueous sodium bicarbonate and sodium thiosulfate (100 ml) and extracted with ethyl acetate (2×100 ml). The combined oganic layers were washed with sat. sodium bicarbonate (2×60 ml), brine (60 ml), dried over sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel (hexane/ethyl acetate 2:1 to 1.5:1) to afford the title compound (333 mg, 77%) as a colorless oil.

reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 4.0 mmol, 1.7 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 4-[N-dodecyl-N-2-[4-[4,4,4-trifluoro-3-hydroxybutyl]phenoxy]ethylamino]butanoic acid, ethyl ester | 0.79 mmol, 430 mg | C(CCCCCCCCCCC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)O)CCCC(=O)OCC | C30H50F3NO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium thiosulfate | 100 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[N-Dodecyl-N-[2-[4-(3-oxo-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester | 333 mg, 77% | C(CCCCCCCCCCC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O)CCCC(=O)OCC | C30H48F3NO4
